US07405228B2
Preparation of 4-(3-fluoro-4-oxo-piperidin-1-yl)-nitrobenzene
The mixture of 4-(4-trimethylsilyloxy-piperidin-1-yl)-nitrobenzene (101 mmol), selectfluor (101 mmol) in acetonitrile (100 ml) was stirred for 4 hours. The solvent was removed under reduced pressure and to the residual mass was extracted into ethyl acetate water mixture. The combined organic layer was dried and removal of the solvent afforded title compound in 95% yield.

reactant | 4-(4-trimethylsilyloxy-piperidin-1-yl)-nitrobenzene | 101 mmol | C[Si](OC1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])(C)C | C14H22N2O3Si
reactant | selectfluor | 101 mmol | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-(3-fluoro-4-oxo-piperidin-1-yl)-nitrobenzene | 95% yield | FC1CN(CCC1=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H11FN2O3
